US07435837B2
Treatment of 2-tert-butyl-4-methoxyphenol and 3-tert-butyl-4-methoxyphenol (18.25 g, 0.101 mol) with potassium carbonate (55.28 g, 0.400 mol) and allyl bromide (14.69 g, 0.121 mol) followed by treatment of the resultant allyl ether in refluxing mesitylene generally according to the procedure described for Intermediate 8 provided 2-allyl-6-tert-butyl-4-methoxyphenol and 2-allyl-5-tert-butyl-4-methoxyphenol. Treatment of the phenol with 3-chloroperoxybenzoic acid (49.58 g, 0.287 mol, 77%) and potassium carbonate (33.0 g, 0.238 mol) generally according to the procedure described for Intermediate 9 gave 3.23 g (14%) of (±)-(7-tert-butyl-5-methoxy-2,3-dihydro-1-benzofuran-2-yl)methanol as a white solid. Treatment of the benzofuran with p-toluenesulfonyl chloride (2.86 g, 0.015 mol) generally according to the procedure described for Intermediate 10 afforded (±)-(7-tert-butyl-5-methoxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate. Treatment of the tosylate with sodium azide (1.46 g, 22.5 mmol) generally according to the procedure described for Intermediate 98 gave (±)-2-(azidomethyl)-7-tert-butyl-5-methoxy-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.14 g, 10 wt. %) generally according to the procedure described for Example 1 afforded 1.5 g (40%) of (±)-(7-tert-butyl-5-methoxy-2,3-dihydro-1-benzofuran-2-yl)methylamine) as a white solid, hydrochloride salt. mp 174-176° C.; Anal calcd. for C14H21O2NHCl: C, 61.87; H, 8.16; N, 5.15. Found C, 61.67; H, 8.37; N, 4.93.

reactant | 2-tert-butyl-4-methoxyphenol | C(C)(C)(C)C1=C(C=CC(=C1)OC)O | C11H16O2
reactant | 3-tert-butyl-4-methoxyphenol | 0.101 mol, 18.25 g | C(C)(C)(C)C=1C=C(C=CC1OC)O | C11H16O2
reactant | potassium carbonate | 0.400 mol, 55.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.121 mol, 14.69 g | C(C=C)Br | C3H5Br
reactant | allyl ether | C(C=C)OCC=C | C6H10O
reactant | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
reactant | 2-allyl-6-tert-butyl-4-methoxyphenol | C(C=C)C1=C(C(=CC(=C1)OC)C(C)(C)C)O | C14H20O2
reactant | 2-allyl-5-tert-butyl-4-methoxyphenol | C(C=C)C1=C(C=C(C(=C1)OC)C(C)(C)C)O | C14H20O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 3-chloroperoxybenzoic acid | 0.287 mol, 49.58 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 0.238 mol, 33.0 g | C([O-])([O-])=O.[K+].[K+]
product | (±)-(7-tert-butyl-5-methoxy-2,3-dihydro-1-benzofuran-2-yl)methanol | 3.23 g, 14% | C(C)(C)(C)C1=CC(=CC=2CC(OC21)CO)OC | C14H20O3
